US09023858B2
C) 2-(methylsulfanyl)-3-[4-(2,2,2-trifluoroethoxy)phenyl]-5,6-dihydropyrido[2,3-d]pyrimidine-4,7(3H,8H)-dione
To a solution of 2-thioxo-3-[4-(2,2,2-trifluoroethoxy)phenyl]-2,3,5,6-tetrahydropyrido[2,3-d]pyrimidine-4,7(1H,8H)-dione (2.05 g) in acetonitrile (40 mL) were added 1M aqueous sodium hydrogen carbonate solution (5.52 mL) and iodomethane (1.73 mL), and the mixture was stirred at 50° C. for 30 min. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (2.1 g).

reactant | 2-thioxo-3-[4-(2,2,2-trifluoroethoxy)phenyl]-2,3,5,6-tetrahydropyrido[2,3-d]pyrimidine-4,7(1H,8H)-dione | 2.05 g | S=C1N(C(C2=C(N1)NC(CC2)=O)=O)C2=CC=C(C=C2)OCC(F)(F)F | C15H12F3N3O3S
reactant | sodium hydrogen carbonate | 1M, 5.52 mL | C(O)([O-])=O.[Na+]
reactant | iodomethane | 1.73 mL | IC | CH3I
reactant | water | O | H2O
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
product | 2-(methylsulfanyl)-3-[4-(2,2,2-trifluoroethoxy)phenyl]-5,6-dihydropyrido[2,3-d]pyrimidine-4,7(3H,8H)-dione | 2.1 g | CSC=1N(C(C2=C(N1)NC(CC2)=O)=O)C2=CC=C(C=C2)OCC(F)(F)F | C16H14F3N3O3S
